US07192950B2
N-[3-(4-Benzyloxy-3-methoxy-phenyl)-propyl]-2-(3,4-dimethoxy-phenyl)-acetamide
A solution of 3-(4-benzyloxy-3-methoxy-phenyl)-propylamine (6.06 g, 22.36 mmol) and TEA (3.5 ml, 25.14 mmol) in anhydrous THF (25 ml) was cooled to 0° C. and (3,4-dimethoxy-phenyl)-acetyl chloride (4.80 g, 22.36 mmol) in THF (10 ml) was added dropwise. After stirring at RT for 28 h under nitrogen, a saturated aqueous NaHCO3 solution was added and the reaction mixture was extracted three times with AcOEt. The organic phase was dried over anhydrous MgSO4, filtered and the solvent was removed in vacuo. A subsequent washing of the crude solid with toluene gave the title compound (6.57 g, 14.61 mmol, 65%) as a beige solid.

reactant | 3-(4-benzyloxy-3-methoxy-phenyl)-propylamine | 22.36 mmol, 6.06 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCN)OC | C17H21NO2
reactant | (3,4-dimethoxy-phenyl)-acetyl chloride | 22.36 mmol, 4.80 g | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[3-(4-Benzyloxy-3-methoxy-phenyl)-propyl]-2-(3,4-dimethoxy-phenyl)-acetamide | 14.61 mmol, 6.57 g, 65% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCNC(CC1=CC(=C(C=C1)OC)OC)=O)OC | C27H31NO5
